* C:\Users\ashle\OneDrive\Documents\ELECTENG 310\Design-Simulation - part 1\Assignment1_Task2_2_Practical2.asc
V1 Vsupply 0 {Vsupply}
R1 N002 Vsq {R1}
C1 Vtri N002 {C1} Rser=10m
R2 N006 Vtri {R2}
R3 Vsq N006 {R3}
V2 Vref 0 {Vref}
R4 Vsupply Vsq 1k
R6 Vsupply N007 1k
R7 N007 0 1k
R10 N005 N004 150k
R12 Vref N005 100k
R13 N001 Vinput_conditioned 100k
R14 0 N001 150k
Vinput N003 0 SINE({Vinput_offset} 1 {Vinput_frequency})
C2 N004 N003 1µ
R5 N004 0 8.5k
R8 Vpwm N010 22k
R9 N010 N009 100
R11 Vsupply Vpwm 1k
V3 N009 0 SINE(1.75 0.5 2.5k)
XU1 N005 N001 Vsupply 0 Vinput_conditioned LM358
XU2 Vref N002 Vsupply 0 Vtri LM358
XU3 N006 Vref Vsupply 0 Vsq LM393A
XU4 N010 Vtri Vsupply 0 Vpwm LM393A
Q1 Vsupply Vpwm N011 0 BC547B
Q2 N008 N011 N012 0 BC639
R15 Vsupply Vpwm 2k
R16 Vpwm 0 1k
R17 N011 0 1k
R18 N012 0 16
D1 Vsupply N008 KA3529
.model D D
.lib C:\Users\ashle\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ashle\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param C1=15n Vref=1.75 Vsupply=5 R1=1k R2=33k R3=82k
.include LM393A.5_1
.param Vinput_frequency=2.5k Vinput_offset=1
.include BC639_LTSpice_Model.txt
.include KA3529_LTSpice_Model.txt
.tran 0 10.6m 10m
.include eee305.lib
.backanno
.end
